US07192950B2
2-[9-(3,4-Dimethoxy-benzyl)-2,3-dimethoxy-5,5-dioxo-5,6,7,9-tetrahydro-5λ6-thia-8-aza-benzocyclohepten-8-yl]-N-indan-1-yl-acetamide
prepared by reaction of 2-bromoacetyl bromide with rac-1-aminoindane and 9-(3,4-dimethoxy-benzyl)-2,3-dimethoxy-6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene-5,5-dioxide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | rac-1-aminoindane | NC1CCC2=CC=CC=C12 | C9H11N
reactant | 9-(3,4-dimethoxy-benzyl)-2,3-dimethoxy-6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene-5,5-dioxide | COC=1C=C(CC2NCCS(C3=C2C=C(C(=C3)OC)OC)(=O)=O)C=CC1OC | C20H25NO6S
product | 2-[9-(3,4-Dimethoxy-benzyl)-2,3-dimethoxy-5,5-dioxo-5,6,7,9-tetrahydro-5λ6-thia-8-aza-benzocyclohepten-8-yl]-N-indan-1-yl-acetamide | COC=1C=C(CC2N(CCS(C3=C2C=C(C(=C3)OC)OC)(=O)=O)CC(=O)NC3CCC2=CC=CC=C32)C=CC1OC | C31H36N2O7S
